US06417186B1
6e. 3-(4-Aminophenyl)-1-[4-(4-methanesulfonylpiperazin-1-yl)-phenyl]-propan-1-one
A mixture of 2,2,2-trifluoro-N-(4-{3-[4-(4-methanesulfonylpiperazin-1-yl)-phenyl]-3-oxopropyl}phenyl)acetamide (0.43 g, 0.88 mmol), and a solution of potassium carbonate (0.61 g, 4.39 mmol) in water (10 mL), and methanol (20 mL) was warmed on a steam bath, then stirred at room temperature for about 12 hours. The reaction mixture was concentrated to one-third volume, diluted with cold water, and extracted with dichloromethane. The organic extract was washed with water, brine, dried, and concentrated in vacuo. Purification by silica gel chromatography, eluting with 2% methanol in dichloromethane gave the title compound as a white solid (0.28 g, 82%), m. p.166.5-170.0° C.

reactant | 2,2,2-trifluoro-N-(4-{3-[4-(4-methanesulfonylpiperazin-1-yl)-phenyl]-3-oxopropyl}phenyl)acetamide | 0.88 mmol, 0.43 g | FC(C(=O)NC1=CC=C(C=C1)CCC(=O)C1=CC=C(C=C1)N1CCN(CC1)S(=O)(=O)C)(F)F | C22H24F3N3O4S
reactant | potassium carbonate | 4.39 mmol, 0.61 g | C([O-])([O-])=O.[K+].[K+]
reactant | methanol | 20 mL | CO | CH4O
solvent | water | 10 mL | O | H2O
product | 3-(4-Aminophenyl)-1-[4-(4-methanesulfonylpiperazin-1-yl)-phenyl]-propan-1-one | 0.28 g, 82% | NC1=CC=C(C=C1)CCC(=O)C1=CC=C(C=C1)N1CCN(CC1)S(=O)(=O)C | C20H25N3O3S
